US07407963B2
trans-2-(4-amino-3,5-dibromobenzoyl)cyclopropanecarboxylic acid
Prepared analogously to Example 2 from methyl trans-2-(4-amino-3,5-dibromobenzoyl)cyclopropanecarboxylate by saponification with lithium hydroxide hydrate in a water-tetrahydrofuran mixture (2/3 v/v) in a yield of 76% of theoretical. Colorless crystals. IR (KBr): 3473.2, 3345.9 (NH2); 1714.4 (C═O) cm−1.

reactant | methyl trans-2-(4-amino-3,5-dibromobenzoyl)cyclopropanecarboxylate | NC1=C(C=C(C(=O)[C@H]2[C@@H](C2)C(=O)OC)C=C1Br)Br | C12H11Br2NO3
reactant | lithium hydroxide hydrate | O.[OH-].[Li+]
reactant | KBr | [K+].[Br-]
solvent | water tetrahydrofuran | O.O1CCCC1
product | trans-2-(4-amino-3,5-dibromobenzoyl)cyclopropanecarboxylic acid | yield of 76% | NC1=C(C=C(C(=O)[C@H]2[C@@H](C2)C(=O)O)C=C1Br)Br | C11H9Br2NO3
